US05059609
7-Benzyloxy-3,4-dihydro-4-(3-(methoxycarbonyl)phenoxy)-1-benzoxepin-5(2H)-one
By the method of Example 27, substituting the phenol with a molar equivalent of methyl 3-hydroxybenzoate, 7-benzyloxy-4-bromo-3,4-dihydro-1-benzoxepin-(5(2H)-one (17.3 g) was converted to present title product, 10.9 g, m.p. 134°-136° C.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | methyl 3-hydroxybenzoate | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | 7-benzyloxy-4-bromo-3,4-dihydro-1-benzoxepin | C(C1=CC=CC=C1)OC=1C=CC2=C(CC(CCO2)Br)C1 | C17H17BrO2
product | 7-Benzyloxy-3,4-dihydro-4-(3-(methoxycarbonyl)phenoxy)-1-benzoxepin-5(2H)-one | C(C1=CC=CC=C1)OC=1C=CC2=C(C(C(CCO2)OC2=CC(=CC=C2)C(=O)OC)=O)C1 | C25H22O6
